US04057647
Analogously to Example 25 (a), 3-bromo-3-(2',4'-difluoro-4-biphenylyl)butan-1-ol, obtained by brominating 3-(2',4'-difluoro-4-biphenylyl)butan-1-ol, and potassium acetate are reacted to give 3-acetoxy-3-(2',4'-difluoro-4-biphenylyl)butan-1-ol.

reactant | 3-bromo-3-(2',4'-difluoro-4-biphenylyl)butan-1-ol | BrC(CCO)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C16H15BrF2O
reactant | 3-(2',4'-difluoro-4-biphenylyl)butan-1-ol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)C | C16H16F2O
reactant | potassium acetate | C(C)(=O)[O-].[K+]
product | 3-acetoxy-3-(2',4'-difluoro-4-biphenylyl)butan-1-ol | C(C)(=O)OC(CCO)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C18H18F2O3
